US09079866B2
4′-(3,4-Dihydro-2H-pyrido[3,2-b][1,4]oxazin-7-yl)-3′-fluoro-N-[(1S)-2-hydroxy-1-methylethyl]biphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 444 using 7-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)phenyl)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine and (S)-2-bromo-N-(1-hydroxypropan-2-yl)benzenesulfonamide. MS (ESI): mass calcd. for C22H22FN3O4S, 443.13; m/z found, 444.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.15-8.12 (m, 1H), 7.80 (m, 1H), 7.72 (d, J=1.3, 1H), 7.69-7.64 (m, 1H), 7.62-7.52 (m, 2H), 7.40-7.33 (m, 3H), 4.37 (t, J=4.6, 2H), 3.76-3.69 (m, 2H), 3.43-3.36 (m, 1H), 3.30-3.26 (m, 1H), 3.24-3.16 (m, 1H), 1.04-1.01 (m, 3H).

reactant | 7-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)phenyl)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine | FC1=C(C=CC(=C1)C1OC(C(O1)(C)C)(C)C)C1=CC=2OCCNC2N=C1 | C20H23FN2O3
reactant | (S)-2-bromo-N-(1-hydroxypropan-2-yl)benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N[C@H](CO)C | C9H12BrNO3S
product | 4′-(3,4-Dihydro-2H-pyrido[3,2-b][1,4]oxazin-7-yl)-3′-fluoro-N-[(1S)-2-hydroxy-1-methylethyl]biphenyl-2-sulfonamide | O1C2=C(NCC1)N=CC(=C2)C2=C(C=C(C=C2)C=2C(=CC=CC2)S(=O)(=O)N[C@H](CO)C)F | C22H22FN3O4S
